US05939435
1-(Benzoyl)-6-chloro-1,2-dihydro-quinoline-2-carboxylic acid amide
A solution of 1-(Benzoyl)-6-chloro-1,2-dihydro-quinoline-2-carbonitrile (8.0 g), sodium bicarbonate (4.0 g), and 0.1N aqueous sodium hydroxide (20 mL) in acetone (125 mL) was treated with slow addition of 30% hydrogen peroxide (120 mL). The pH of the reaction was kept near 8 by the addition of 0.1N sodium hydroxide. After 4 hours, the mixture was diluted with ethyl acetate and washed with an aqueous solution of sodium thiosulfate. The organic phase was subsequently washed with water and brine. The organic phase was dried over magnesium sulfate and evaporated to dryness. The residue was chromatographed on silica gel using ethyl acetate/hexane (2:8) followed by ethyl acetate/methylene chloride/hexane (3:1:6) and finally 100% ethyl acetate to yield 1.5 g of the desired compound as a white solid, m.p. 230-234° C.

reactant | 1-(Benzoyl)-6-chloro-1,2-dihydro-quinoline-2-carbonitrile | 8.0 g | C(C1=CC=CC=C1)(=O)N1C(C=CC2=CC(=CC=C12)Cl)C#N | C17H11ClN2O
reactant | sodium bicarbonate | 4.0 g | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 0.1N, 20 mL | [OH-].[Na+]
reactant | hydrogen peroxide | 120 mL | OO | H2O2
reactant | sodium hydroxide | 0.1N | [OH-].[Na+]
solvent | acetone | 125 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(Benzoyl)-6-chloro-1,2-dihydro-quinoline-2-carboxylic acid amide | 1.5 g | C(C1=CC=CC=C1)(=O)N1C(C=CC2=CC(=CC=C12)Cl)C(=O)N | C17H13ClN2O2
